US08754229B2
Preparation of methyl 4-amino-5,6-dichloro-3-methoxypicolinate (Compound 2)
Methyl 4-amino-6-chloro-3-methoxypicolinate (260 mg, 1.2 mmol) was dissolved in dry CH3CN (7 mL), treated with sulfuryl chloride (120 μL, 1.5 mmol) and stirred for 30 min The solution was stirred with satd aq sodium bicarbonate (NaHCO3; 10 mL) for 20 min and then mixed with EtOAc (20 mL) and satd aq NaCl (10 mL). The aqueous phase was extracted with EtOAc (15 mL), and the combined organic phases were washed with satd aq NaCl (10 mL), dried (Na2SO4) and evaporated to give the title compound as a white solid (240 mg, 80%): mp 119-121° C.; 1H NMR (400 MHz, CDCl3) δ 5.04 (s, 2H), 3.97 (s, 3H), 3.93 (s, 3H); EIMS m/z 250.

reactant | Methyl 4-amino-6-chloro-3-methoxypicolinate | 1.2 mmol, 260 mg | NC1=C(C(=NC(=C1)Cl)C(=O)OC)OC | C8H9ClN2O3
reactant | sulfuryl chloride | 1.5 mmol, 120 μL | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | sodium bicarbonate | 10 mL | C([O-])(O)=O.[Na+]
reactant | NaCl | 10 mL | [Na+].[Cl-]
solvent | CH3CN | 7 mL | CC#N | C2H3N
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | methyl 4-amino-5,6-dichloro-3-methoxypicolinate | 240 mg, 80% | NC1=C(C(=NC(=C1Cl)Cl)C(=O)OC)OC | C8H8Cl2N2O3
